US06201027B1
3-Fluoro-4-methylsulfonylbenzaldehyde
To a solution containing 0.5 g 3,4-difluorobenzaldehyde and 20 ml DMSO was added 0.71 g methanesulfinic acid sodium salt with stirring at 90° C. The solution was stirred 6 hours at 90° C. and then poured into water. Sodiumhydrogencarbonate was added and the product was extracted with ethyl acetate. The extract was evaporated to dryness in vacuo. The residue was triturated with 2-propanol, yield 0.93 g. 1H-NMR (DMSO-d6, 400 MHz): 3.52 (s, 3 H, CH3), 7.98-8.13 (m, 3 H, Ar), 10.22 (d, 1 H, CHO).

reactant | 3,4-difluorobenzaldehyde | 0.5 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
reactant | methanesulfinic acid sodium salt | 0.71 g | [Na+].CS(=O)[O-]
solvent | water | O | H2O
product | 3-Fluoro-4-methylsulfonylbenzaldehyde | FC=1C=C(C=O)C=CC1S(=O)(=O)C | C8H7FO3S
